US04032657
(b) Production of N-(1'-methoxycarbonyl-ethyl)-N-chloroacetyl-2,6-dichloroaniline (D,L)
18.4 g of α-(2,6-dichloroanilino)-propionic acid methyl ester, 1 ml of dimethylformamide and 100 ml of chlorobenzene are heated to 100° (internal temperature). An addition is made dropwise at this temperature, with stirring, of 8 ml of chloroacetyl chloride. After the evolution of HCl has ceased, stirring is maintained for 1 hour at 130°-140° bath temperature. The reaction mixture is allowed to cool to room temperature, the solvent is removed in a rotary evaporator, and the yellow oil remaining as residue is crystallised from diisopropyl ether. There is obtained 16 g of final product having a melting point of 82°-85° (Compound No. 10).

reactant | α-(2,6-dichloroanilino)-propionic acid methyl ester | 18.4 g | COC(C(C)NC1=C(C=CC=C1Cl)Cl)=O | C10H11Cl2NO2
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | chloroacetyl chloride | 8 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | HCl | Cl | ClH
solvent | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
product | N-(1'-methoxycarbonyl-ethyl)-N-chloroacetyl-2,6-dichloroaniline | 16 g | COC(=O)C(C)N(C1=C(C=CC=C1Cl)Cl)C(CCl)=O | C12H12Cl3NO3
